US08067445B2
Step 1: (2′-Hydroxymethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (2-bromo-5-trifluoromethyl-phenyl)-methanol and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester.

reactant | (2-bromo-5-trifluoromethyl-phenyl)-methanol | BrC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6BrF3O
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO5
product | (2′-Hydroxymethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CO)=O | C18H17F3O4
